US03984398
11 g. of N-carbethoxy acetyl N-methyl o-nitro aniline are admixed with 16.2 g. of powdered zinc, and 100 g. of cracked ice are added, whilst agitating; 62 cc. of concentrated hydrochloric acid, diluted with 250 cc. of ice water, are then added, and this is cooled to -5°-10° C. for 10 to 15 minutes; the temperature is allowed to raise again to +5° C. within 30 minutes, this is filtered, the filtrate is alkalinized with ammonium hydroxide and extracted with chloroform; the chloroformic phases are washed with water, dried over sodium sulfate and evaporated under reduced pressure; the residue is dissolved in 30 cc. of xylene and the solution is kept overnight at -10° C.; the formed precipitate is washed with ether and recrystallized in xylene, to obtain N-carbethoxy acetyl N-methyl o-phenylene diamine, melting at 63°-64° C.

reactant | N-carbethoxy acetyl N-methyl o-nitro aniline | C(=O)(OCC)CC(=O)N(C1=C(C=CC=C1)[N+](=O)[O-])C | C12H14N2O5
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc | [Zn] | Zn
product | N-carbethoxy acetyl N-methyl o-phenylene diamine | C(=O)(OCC)CC(=O)N(C1=C(C=CC=C1)N)C | C12H16N2O3
